US05705505
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-hydroxyethyl)piperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.387g) was coupled to 4-(2-hydroxy-ethyl)piperidine (0.13g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.178 g); mp 119°-125° C. (d); MS: m/z=461(M+1); NMR(CDCl3): 2.5-2.4(m,15), 3.1 (s,3), 3.56 (broad,2), 3.7 (broad,2), 4.7 (s,1), 6.6 (d,1, J=7.5), 6.8 (s,1), 7.13 (d,1, J=8), 7.4-7.7 (m,4). Analysis for C25H30Cl2N2O2.HCl: Calculated: C, 56.19; H, 6.03; N, 5.24; Found: C, 56.01; H, 5.77; N, 5.06.

reactant | 3-(3,4-dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.387g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=CC=C12)=O)C | C18H15Cl2NO2
reactant | 4-(2-hydroxy-ethyl)piperidine | 0.13g | OCCC1CCNCC1 | C7H15NO
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-hydroxyethyl)piperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.178 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)CCO)C1N(C(C2=CC=CC=C12)=O)C | InChI=1S/C25H30Cl2N2O2.ClH/c1-28-24(20-4-2-3-5-21(20)25(28)31)19(18-6-7-22(26)23(27)16-18)10-14-29-12-8-17(9-13-29)11-15-30;/h2-7,16-17,19,24,30H,8-15H2,1H3;1H
